US06653471B2
To a solution of 6-[2-(4-Nitro-phenyl)-ethyl]-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester (19.67 mmol) in 100 mL DMF is treated with sodium hydride (60%, 1.97 g, 49.18 mmol) portion wise. The reaction is complete in about 2 h at 20° C. Chloroform is added and the reaction mixture is cooled to 5° C. before the dropwise addition of acetic acid (3.15 mL, 55.08 mmol) until pH of 1-3. A saturated solution of aqueous KHCO3 (150 mL) is added, stirred and separated. The separated organic phase is washed with water twice. The filtrate is concentrated directly. Most of the DMF is removed by high vacuum to give a brown wet solid. The wet solid is cooled to room temp. Ether is added, stirred, and filtered to give a brown solid which is dried in air overnight to give 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester, 9.11 g, (77%): 1H NMR (CD3OD) 3.05 (t, 2H), 3.86 (s, 3H), 4.25 (t, 2H), 6.97 (s, 1H), 7.05 (s, 1H), 7.40 (s, 1H); LRMS calcd 217.23, found [M−H] 216.1.

reactant | 6-[2-(4-Nitro-phenyl)-ethyl]-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester | 19.67 mmol | COC(=O)C1=CN(C=2CCN3C=CN=C3C12)CCC1=CC=C(C=C1)[N+](=O)[O-] | C19H18N4O4
reactant | sodium hydride | 49.18 mmol, 1.97 g | [H-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | 55.08 mmol, 3.15 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Ether | CCOCC | C4H10O
product | 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester | COC(=O)C1=CNC=2CCN3C=CN=C3C12 | C11H11N3O2
